US07297805B2
Synthesis of 1,2-bis(1-butylbenzimidazol-2-yl)-1,1,2,2-tetrafluoroethane (DiBu-(C2F4)-BBIM)
Subsequently, 1,2-bis(benzimidazol-2-yl)-1,1,2,2-tetrafluoroethane (4.02 g, 12.03 mmol) was degassed on a vacuum line in a 250 mL round-bottomed flask and flushed with argon. Anhydrous, nitrogen-sparged DMSO (135 mL) was cannulated into the flask, resulting in a purple solution. Separately, a 500 mL three-necked flask equipped with a stirbar, addition funnel, vacuum adapter, and a septum was assembled in the glove box. Sodium hydride (powder, 1.15 g, 48.10 mmol) was added, and the flask was placed under argon on a Schlenk line. Anhydrous DMSO (35 mL) was added via cannula to form a slurry. The bis-benzimidazole solution was then cannulated into the addition funnel and added dropwise to the sodium hydride slurry over a 30 minute period at 0° C., giving a cloudy black solution. The reaction mixture was warmed to room temperature over a 2 hour period and sparged iodobutane (8.86 g, 48.12 mmol) was added. The slurry was stirred overnight at room temperature and the resultant clear amber, viscous solution was poured into 300 mL of deionized water. The organic products were isolated by extraction with 3×200 mL of cyclohexane, followed by back-extraction of the combined organic layers with 1×200 mL deionized water. Removal of cyclohexane gave 4.725 g (88%) of the light tan product, 1,2-bis(1-butylbenzimidazol-2-yl)-1,1,2,2-tetrafluoroethane, which was recrystallized from methanol at −10° C. (3.795 g, 71%; C24H26F4N4, FW=446.48). 1H NMR (CDCl3): δ 7.80 (d, J=8.1 Hz, 2H), 7.44 (d, J=8.1 Hz, 2H), 7.38 (tr, J=7.5 Hz, 2H), 7.31 (tr, J=7.6 Hz, 2H) (aryl), 4.39 (tr, J=7.8 Hz, 4H, CH2N), 1.87 (5, J=7.8 Hz, 4H, CH2CH2N), 1.44 (6, j=7.5 Hz, 4 H, CH2CH3), 0.96 (tr, J=7.36, 6H, CH3). 13C{1H} NMR (CDCl3, assigned by DEPT): δ 141.63 (aryl C—N), 140.89 (tr, JCF=28.4 Hz, C═N), 135.40 (aryl C-N), 124.53 and 122.95 (aryl o- to C—N), 121.11 (aryl m- to C—N), 112.84 (tr of tr, JCF=253.4 and 34.4 Hz, CF2), 110.39 (aryl m- to C—N), 45.27 (CH2N), 32.07 (CH2CH2N), 19.94 (CH2CH3), 13.46 (CH3). 19F NMR (CDCl3, vs. CFCl3): δ-107.52. IR (KBr pellet, cm−1): 3082 (w), 3055 (m), 3017 (m), 2965 (s), 2936 (s), 2874 (s), 2737 (w), 1939 (w), 1896 (w), 1861 (w), 1811 (w), 1771 (w), 1734 (w), 1682 (w), 1615 (m), 1588 (m), 1499 (s), 1487 (s), 1464 (sh), 1452 (vs), 1424 (s), 1373 (s), 1335 (s), 1283 (w), 1248 (s), 1227 (m), 1167 (vs), 1142 (vs), 1101 (vs), 1005 (m), 980 (w), 963 (w), 916 (s), 893 (s), 783 (m), 739 (vs), 669 (m), 598 (m), 548 (w), 440 (m). Elemental analysis calculated for C24H26F4N4: C, 64.56; H, 5.87; F, 17.02; N, 12.55. Found: C, 64.32; H, 5.77; F, 16.93; N, 12.46. Melting point (stage): 112° C. FD-MS m/z (%): 446 (M+, 100).

reactant | 1,2-bis(benzimidazol-2-yl)-1,1,2,2-tetrafluoroethane | 12.03 mmol, 4.02 g | N1=C(NC2=C1C=CC=C2)C(C(F)(F)C=2NC1=C(N2)C=CC=C1)(F)F | C16H10F4N4
reactant | Sodium hydride | 48.10 mmol, 1.15 g | [H-].[Na+]
reactant | bis-benzimidazole | COC1=CC2=C(C=C1)N=C(N2)C(C(C3=NC4=C(N3)C=C(C=C4)OC)O)O | C18H18N4O4
reactant | iodobutane | 48.12 mmol, 8.86 g | ICCCC | C4H9I
solvent | cyclohexane | 200 mL | C1CCCCC1 | C6H12
solvent | water | 300 mL | O | H2O
solvent | DMSO | 35 mL | CS(=O)C | C2H6OS
product | 1,2-bis(1-butylbenzimidazol-2-yl)-1,1,2,2-tetrafluoroethane | 4.725 g, 88% | C(CCC)N1C(=NC2=C1C=CC=C2)C(C(F)(F)C2=NC1=C(N2CCCC)C=CC=C1)(F)F | C24H26F4N4
